US07226920B2
3-(S)-{4-[3-(4-Sulfamoyl-phenylamino)-[1,2,4]triazol-1-yl]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester.
A microwave reaction vessel was charged with 50 mg of 4-[1-(2-Chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide (0.14 mmol, 1 equiv), 110 mg (S)-3-amino-piperidine-1-carboxylic acid tert-butyl ester (0.57 mmol, 4 equiv) and 17.0 mg DMAP (0.014 mmol, 0.1 equiv) in NMP (1.5 mL). The resulting solution was warmed to 130° C. via microwave irradiation for 20 min and then heated at 180° C. for an additional 70 min via microwave irradiation. The reaction mixture was cooled and concentrated in vacuo and the residue purified by preparative HPLC. To a solution of 12.0 mg of this product, 3-(S)-{4-[3-(4-sulfamoyl-phenylamino)-[1,2,4]triazol-1-yl]-pyridin-2-ylamino}-piperidine (0.029 mmol, 1 equiv) in dichloromethane (5 mL), di-tert-butyl dicarbonate (9.5 mg, 0.043 mmol, 1.5 equiv) and 6 μL triethylamine (0.058 mmol, 2 equiv) were added and the resulting solution stirred at rt for 1 h. The reaction mixture was concentrated in vacuo and the residue purified by column chromatography on silica gel eluting with 50% EtOAc: petroleum ether moving to EtOAc (4.2 mg, 29%); MS (ES+) m/e 515.55, (ES−) m/e 513.70

reactant | 4-[1-(2-Chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide | 0.14 mmol, 50 mg, 1 equiv | ClC1=NC=CC(=C1)N1N=C(N=C1)NC1=CC=C(C=C1)S(=O)(=O)N | C13H11ClN6O2S
reactant | (S)-3-amino-piperidine-1-carboxylic acid tert-butyl ester | 0.57 mmol, 110 mg, 4 equiv | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)N | C10H20N2O2
reactant | 3-(S)-{4-[3-(4-sulfamoyl-phenylamino)-[1,2,4]triazol-1-yl]-pyridin-2-ylamino}-piperidine | 0.029 mmol, 1 equiv | S(N)(=O)(=O)C1=CC=C(C=C1)NC1=NN(C=N1)C1=CC(=NC=C1)N[C@@H]1CNCCC1 | C18H22N8O2S
reactant | di-tert-butyl dicarbonate | 0.043 mmol, 9.5 mg, 1.5 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.058 mmol, 6 μL, 2 equiv | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.014 mmol, 17.0 mg, 0.1 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(S)-{4-[3-(4-Sulfamoyl-phenylamino)-[1,2,4]triazol-1-yl]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)NC1=NC=CC(=C1)N1N=C(N=C1)NC1=CC=C(C=C1)S(N)(=O)=O | C23H30N8O4S
